US08703742B2
5-Chloro-3-ethoxy-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzaldehyde
A mixture of 4-chloro-2-ethoxy-6-formylphenyl trifluoromethanesulfonate (330 mg, 1 mmol), KOAc (350 mg, 2.0 mmol), bis(pinacolato)diborane (600 mg, 2.0 mmol) and PdCl2(dppf)CH2Cl2 (65 mg, 0.08 mmol, 8 mol %) in dioxane (30 mL) was degassed for 15 min with N2 and stirred at 100° C. for 3 h. After quenched with ice-water, the reaction mixture was extracted with EtOAc (3×30 mL). The combined organic layers were washed with sat. aqueous NaHCO3 (20 mL) and brine (20 mL), dried over anhydrous Na2SO4 and then concentrated. The residue was purified by column chromatography on silica gel to give the compound (150 mg, yield: 43%).

reactant | 4-chloro-2-ethoxy-6-formylphenyl trifluoromethanesulfonate | 1 mmol, 330 mg | FC(S(=O)(=O)OC1=C(C=C(C=C1C=O)Cl)OCC)(F)F | C10H8ClF3O5S
reactant | KOAc | 2.0 mmol, 350 mg | CC(=O)[O-].[K+]
reactant | bis(pinacolato)diborane | 2.0 mmol, 600 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 5-Chloro-3-ethoxy-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzaldehyde | 150 mg, yield: 43% | ClC=1C=C(C(=C(C=O)C1)B1OC(C(O1)(C)C)(C)C)OCC | C15H20BClO4
